US06562989B2
N,N-dibutyl-2-methylaniline (Table 4, Entry 3)
According to the general procedure B, 2-bromotoluene (171 mg, 1.00 mmol) reacted with N,N-di-n-butylamine (129 mg, 1.00 mmol) using 1 mol % of catalyst and sodium tert-butoxide (115 mg, 1.20 mmol) at 60° C. to give the title compound (79 mg, 37%) as an oil: 1H-NMR (300 MHz, CDCl3): δ 7.20-7.08 (m, 3H), 6.98 (app.t, 1H), 2.94 (t, 4H), 1.41 (m, 4H), 1.27 (m, 4H), 0.88 (t, 6H). GC/MS (EI): m/z 219 (M+).

reactant | 2-bromotoluene | 1.00 mmol, 171 mg | BrC1=C(C=CC=C1)C | C7H7Br
reactant | N,N-di-n-butylamine | 1.00 mmol, 129 mg | C(CCC)NCCCC | C8H19N
reactant | sodium tert-butoxide | 1.20 mmol, 115 mg | CC(C)([O-])C.[Na+]
product | N,N-dibutyl-2-methylaniline | 79 mg, 37% | C(CCC)N(C1=C(C=CC=C1)C)CCCC | C15H25N
